US05977141
(a) (S)-3-(4-Benzyloxy-phenyl)-2-(4-fluoro-benzene-sulfonylamino)-propionic acid
A mixture of (S)-2-amino-3-(4-benzyloxy-phenyl)-propionic acid (2.7 g, 0.010 mol), 4-fluoro-benzene-sulfonyl chloride (2.0 g, 0.010 mol), and sodium carbonate (2.2 g, 0.020 mol) in a mixture of tetra-hydrofuran (20 mL) and water (20 mL) was stirred at room temperature for 3 days. The reaction mixture was partitioned between ethyl acetate and 1 M hydrochloric acid. The organic layer was washed with saturated sodium chloride solution, dried (MgSO4), and rotary-evaporated under reduced pressure to give an oil. The oil was chromatographed on silica gel (445 g, 230-400 mesh) eluting with dichloromethane-methanol (20:1), and the fractions containing product were rotary-evaporated to give a solid. The solid was recrystallized from toluene to give the title compound as a light yellow solid; yield 0.22 g (5%), mp=138-139° C.

reactant | (S)-2-amino-3-(4-benzyloxy-phenyl)-propionic acid | 0.010 mol, 2.7 g | N[C@H](C(=O)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C16H17NO3
reactant | 4-fluoro-benzene-sulfonyl chloride | 0.010 mol, 2.0 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | sodium carbonate | 0.020 mol, 2.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetra-hydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | (S)-3-(4-Benzyloxy-phenyl)-2-(4-fluoro-benzene-sulfonylamino)-propionic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)F | C22H20FNO5S
